US07652009B2
Step 1: Preparation of 3-Chloro-6-(3-fluoro-4-methoxy-phenyl)-pyridazine
A mixture of 3-fluoro-4-methoxyphenylboronic acid (10 g, 0.059 mol) and 3,6-dichloro-pyridazine (8.79 g, 0.059 mol) in 2 M Na2CO3/EtOH/toluene (80 mL/40 mL/200 mL) was bubbled through N2 for 5 min. Cat. Pd(PPh3)4 (3.47 g, 0.003 mol) was added under N2 and the reaction was heated to 80° C. for 16 h. The mixture was diluted with 200 mL of EtOAc and 40 mL of water. The organic phase was separated, washed with 80 mL of brine, dried over Na2SO4 and concentrated in vacuo. The solid obtained was washed with 50% EtOAc/hexane to provide off-white solid. MS (ESI pos. ion) m/z: 239.0 (M+H). Calc'd Exact Mass for C11H8ClFN2O: 238.65.

reactant | 3-fluoro-4-methoxyphenylboronic acid | 0.059 mol, 10 g | FC=1C=C(C=CC1OC)B(O)O | C7H8BFO3
reactant | 3,6-dichloro-pyridazine | 0.059 mol, 8.79 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
solvent | Na2CO3 EtOH toluene | 2 M, 80 mL | C(=O)([O-])[O-].[Na+].[Na+].CCO.C1(=CC=CC=C1)C
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | water | 40 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.003 mol, 3.47 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Chloro-6-(3-fluoro-4-methoxy-phenyl)-pyridazine | ClC=1N=NC(=CC1)C1=CC(=C(C=C1)OC)F | C11H8ClFN2O
